US05707991
A The reaction is carried out in a way analogous to that described in Example 3, but from 4 g of tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(methoxycarbonyl)phenyl)ureido]acetyl}-5-phenyl-4-(phenylcarbamoyl)pyrrolidine-2-carboxylate in a mixture of 6.7 cm3 of a normal aqueous potassium hydroxide solution, 30 cm3 of distilled water and 120 cm3 of methanol. After treatment, there is obtained 0.55 g of (2RS,4SR,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-4-phenylcarbamoyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid, melting at 160° C.

reactant | tert-butyl (2RS,4SR,5SR)-1-{2-[3-(3-(methoxycarbonyl)phenyl)ureido]acetyl}-5-phenyl-4-(phenylcarbamoyl)pyrrolidine-2-carboxylate | 4 g | COC(=O)C=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=CC=CC=C1)C(NC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)=O | C33H36N4O7
reactant | water | 30 cm3 | O | H2O
reactant | methanol | 120 cm3 | CO | CH4O
solvent | potassium hydroxide | 6.7 cm3 | [OH-].[K+]
product | (2RS,4SR,5SR)-3-{3-[2-(2-tert-butoxycarbonyl-5-phenyl-4-phenylcarbamoyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoic acid | 0.55 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O | C32H34N4O7
